US04687599
To an equivalent quantity of lithium acetylide in liquid NH3 55 g (0.3 mol) of 1-bromo-3,3-dimethoxypropane were added in 30 minutes. Subsequently, stirring was continued for a further 2 hours, after which the NH3 was allowed to evaporate and the residue was dissolved in a mixture of ice and water. The mixture was extracted with ether and the combined organic layers were dried and concentrated by evaporation. The residue was distilled under reduced pressure and 11.5 g of 1,1-dimethoxy-4-pentyne were obtained.

reactant | lithium acetylide | [C-]#[C-].[Li+].[Li+]
reactant | NH3 | 0.3 mol, 55 g | N | H3N
reactant | 1-bromo-3,3-dimethoxypropane | BrCCC(OC)OC | C5H11BrO2
product | 1,1-dimethoxy-4-pentyne | 11.5 g | COC(CCC#C)OC | C7H12O2
